US08748624B2
STEP A: 3′,4′-difluoro-[1,1′-biphenyl]-4-amine
4-Iodoaniline (800 mg, 3.7 mmol), (3,4-difluorophenyl)boronic acid (1.2 g, 7.3 mmol), Pd(dppf)Cl2 (267 mg, 0.4 mmol), and 2M aqueous K2CO3 (3.7 mL, 7.3 mmol) were dissolved in 1,4-dioxane (15 mL) and heated to 80° C. After 2 h the resulting mixture was cooled to room temperature and the layers were separated. The organic phase was concentrated and purified via column chromatography to yield the title compound.

reactant | 4-Iodoaniline | 3.7 mmol, 800 mg | IC1=CC=C(N)C=C1 | C6H6IN
reactant | (3,4-difluorophenyl)boronic acid | 7.3 mmol, 1.2 g | FC=1C=C(C=CC1F)B(O)O | C6H5BF2O2
reactant | K2CO3 | 7.3 mmol, 2M, 3.7 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | 1,4-dioxane | 15 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.4 mmol, 267 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3′,4′-difluoro-[1,1′-biphenyl]-4-amine | FC=1C=C(C=CC1F)C1=CC=C(C=C1)N | C12H9F2N
